* c:\users\user\desktop\esim\self_correcting_message_system\self_correcting_message_system.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models/sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include avsd_opamp.sub
xsc01 net-_sc01-pad1_ net-_sc01-pad2_ gnd sky130_fd_pr__res_generic_nd 
xsc02 net-_sc02-pad1_ net-_sc01-pad1_ gnd sky130_fd_pr__res_generic_nd 
xsc03 gnd net-_sc02-pad1_ gnd sky130_fd_pr__res_generic_nd 
x01 net-_sc01-pad2_ net-_x01-pad2_ net-_sc01-pad1_ sine window01 gnd avsd_opamp
x02 net-_sc01-pad2_ net-_x01-pad2_ sine net-_sc02-pad1_ window02 gnd avsd_opamp
v02 net-_sc01-pad2_ gnd  dc 2V
v03 gnd net-_x01-pad2_  dc 2V
v01  sine gnd sine(0 3 0 0 0)
* u01  sine plot_v1
* u03  window02 plot_v1
* u02  window01 plot_v1
* u101  window01 net-_u101-pad2_ adc_bridge_1
* u102  net-_u101-pad2_ net-_u102-pad2_ vinayak_inverter
* u103  net-_u102-pad2_ net-_u103-pad2_ vinayak_inverter
* u104  net-_u103-pad2_ winv01 dac_bridge_1
* u105  winv01 plot_v1
* u106  window02 net-_u106-pad2_ adc_bridge_1
* u107  net-_u106-pad2_ net-_u107-pad2_ vinayak_inverter
* u108  net-_u107-pad2_ net-_u108-pad2_ vinayak_inverter
* u109  net-_u108-pad2_ winv02 dac_bridge_1
* u110  winv02 plot_v1
* u202  net-_u201-pad3_ net-_u201-pad4_ net-_u202-pad3_ d_xnor
* u203  net-_u202-pad3_ xnor dac_bridge_1
* u201  winv01 winv02 net-_u201-pad3_ net-_u201-pad4_ adc_bridge_2
* u204  xnor plot_v1
a1 [window01 ] [net-_u101-pad2_ ] u101
a2 [net-_u101-pad2_ ] [net-_u102-pad2_ ] u102
a3 [net-_u102-pad2_ ] [net-_u103-pad2_ ] u103
a4 [net-_u103-pad2_ ] [winv01 ] u104
a5 [window02 ] [net-_u106-pad2_ ] u106
a6 [net-_u106-pad2_ ] [net-_u107-pad2_ ] u107
a7 [net-_u107-pad2_ ] [net-_u108-pad2_ ] u108
a8 [net-_u108-pad2_ ] [winv02 ] u109
a9 [net-_u201-pad3_ net-_u201-pad4_ ] net-_u202-pad3_ u202
a10 [net-_u202-pad3_ ] [xnor ] u203
a11 [winv01 winv02 ] [net-_u201-pad3_ net-_u201-pad4_ ] u201
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u101 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u102 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u103 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u104 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u106 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u107 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u108 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u109 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u202 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u203 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u201 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-06 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(sine)
plot v(window02)
plot v(window01)
plot v(winv01)
plot v(winv02)
plot v(xnor)
.endc
.end
