* e:\self\hackathon\mixed_signal_soc_design_marathon\vinayak\self-correcting-message-system-using-hamming-code\self_correcting_message_system\self_correcting_message_system.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models/sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include avsd_opamp.sub
xsc01 in1 net-_sc01-pad2_ gnd sky130_fd_pr__res_generic_nd 
xsc02 in2 in1 gnd sky130_fd_pr__res_generic_nd 
xsc03 gnd in2 gnd sky130_fd_pr__res_generic_nd 
x01 net-_sc01-pad2_ net-_x01-pad2_ in1 sine window01 gnd avsd_opamp
x02 net-_sc01-pad2_ net-_x01-pad2_ sine in2 window02 gnd avsd_opamp
v02 net-_sc01-pad2_ gnd  dc 1v
v03 net-_x01-pad2_ gnd  dc -2v
v01  sine gnd sine(0 1.8 2 0 0)
* u01  sine plot_v1
* u03  window02 plot_v1
* u02  window01 plot_v1
* u101  window01 net-_u101-pad2_ adc_bridge_1
* u102  net-_u101-pad2_ net-_u102-pad2_ vinayak_inverter
* u103  net-_u102-pad2_ net-_u103-pad2_ vinayak_inverter
* u104  net-_u103-pad2_ winv01 dac_bridge_1
* u105  winv01 plot_v1
* u106  window02 net-_u106-pad2_ adc_bridge_1
* u107  net-_u106-pad2_ net-_u107-pad2_ vinayak_inverter
* u108  net-_u107-pad2_ net-_u108-pad2_ vinayak_inverter
* u109  net-_u108-pad2_ winv02 dac_bridge_1
* u110  winv02 plot_v1
* u203  net-_u202-pad3_ xnor dac_bridge_1
* u201  winv01 winv02 net-_u201-pad3_ net-_u201-pad4_ adc_bridge_2
* u204  xnor plot_v1
* u04  in1 plot_v1
* u05  in2 plot_v1
* u202  net-_u201-pad3_ net-_u201-pad4_ net-_u202-pad3_ d_xnor
* u301  freqin net-_u301-pad2_ adc_bridge_1
* u302  net-_u301-pad2_ net-_u302-pad2_ vinayak_frequency_divider
* u303  net-_u302-pad2_ frepout dac_bridge_1
* u305  frepout plot_v1
* u304  freqin plot_v1
v303  freqin gnd sine(0 7 2 0 0)
a1 [window01 ] [net-_u101-pad2_ ] u101
a2 [net-_u101-pad2_ ] [net-_u102-pad2_ ] u102
a3 [net-_u102-pad2_ ] [net-_u103-pad2_ ] u103
a4 [net-_u103-pad2_ ] [winv01 ] u104
a5 [window02 ] [net-_u106-pad2_ ] u106
a6 [net-_u106-pad2_ ] [net-_u107-pad2_ ] u107
a7 [net-_u107-pad2_ ] [net-_u108-pad2_ ] u108
a8 [net-_u108-pad2_ ] [winv02 ] u109
a9 [net-_u202-pad3_ ] [xnor ] u203
a10 [winv01 winv02 ] [net-_u201-pad3_ net-_u201-pad4_ ] u201
a11 [net-_u201-pad3_ net-_u201-pad4_ ] net-_u202-pad3_ u202
a12 [freqin ] [net-_u301-pad2_ ] u301
a13 [net-_u301-pad2_ ] [net-_u302-pad2_ ] u302
a14 [net-_u302-pad2_ ] [frepout ] u303
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u101 adc_bridge(in_low=0 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u102 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u103 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u104 dac_bridge(out_low=0 out_high=5 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u106 adc_bridge(in_low=0 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u107 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinayak_inverter, NgSpice Name: vinayak_inverter
.model u108 vinayak_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u109 dac_bridge(out_low=0 out_high=5 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u203 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u201 adc_bridge(in_low=0 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u202 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u301 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vinayak_frequency_divider, NgSpice Name: vinayak_frequency_divider
.model u302 vinayak_frequency_divider(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u303 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(sine) v(in1) v(in2) v(window01)+5 v(window02)+5 v(winv01)+10 v(winv02)+10 v(xnor)+17
plot v(frepout) v(freqin)
.endc
.end
